US05252732
To a stirred solution of tri(1-methyl-3-phenylindol-5-yl)bismuthine (645 mg., 0.78 mmol., 1.2 eq.) in CH2Cl2 (10 mL.) and THF (3 mL.) was added peracetic acid (0.514 mL. of a 32% solution in dilute acetic acid, 0.858 mmol., 1.3 eq.). The mixture was stirred 5 minutes and 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (514 mg., 0.65 mmol., 1 eq.) was added. Cu(OAc)2 (12 mg., 0.065 mmol., 0.1 eq) was added. The flask was capped and the mixture stirred. After 48 hours the reaction was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product was purified by flash column chromatography on silica gel (2:1 hexanes/acetone) and again (3.5% CH3OH/CH2Cl2) giving 78 mg 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-methyl-3-phenylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone.

reactant | tri(1-methyl-3-phenylindol-5-yl)bismuthine | 0.78 mmol, 645 mg, 1.2 eq. | CN1C=C(C2=CC(=CC=C12)[Bi](C=1C=C2C(=CN(C2=CC1)C)C1=CC=CC=C1)C=1C=C2C(=CN(C2=CC1)C)C1=CC=CC=C1)C1=CC=CC=C1
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.65 mmol, 514 mg, 1 eq. | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Cu(OAc)2 | 0.065 mmol, 12 mg, 0.1 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-methyl-3-phenylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 78 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C(=CN(C1=CC2)C)C2=CC=CC=C2)OC)C)C)O)=O | C58H80N2O12
